US04454150
A solution of N,N-dipropyl-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine (17.6 g, 0.067 mole) in tetrahydrofuran (188 mL) and isopropanol (188 mL) was added with stirring to liquid ammonia (500 mL) cooled by a dry ice-isopropanol bath. Sodium (29.4 g, 1.3 g-atom) was added in small pieces over 0.5 hr. After the blue colour disappeared (ca. 2 hr), methanol (120 mL) was added and the ammonia was allowed to evaporate after removal of the cooling bath. The residue was diluted with water (1000 mL) and extracted three times with diethyl ether. The ether extracts were dried (MgSO4) and concentrated, giving a yellow oil (15.8 g) of 1,2,3,4,5,8-hexahydro-6-methoxy-N,N-dipropyl-2-naphthalenamine, NMR (CDCl3) δ 0.85 (t, 6H), 3.5 (s, 3H) and 4.6 (m, 1H).

reactant | N,N-dipropyl-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine | 0.067 mole, 17.6 g | C(CC)N(CCC)C1CC2=CC=C(C=C2CC1)OC | C17H27NO
reactant | ammonia | 500 mL | N | H3N
reactant | Sodium | 29.4 g | [Na] | Na
reactant | methanol | 120 mL | CO | CH4O
solvent | tetrahydrofuran | 188 mL | O1CCCC1 | C4H8O
solvent | isopropanol | 188 mL | C(C)(C)O | C3H8O
product | 1,2,3,4,5,8-hexahydro-6-methoxy-N,N-dipropyl-2-naphthalenamine | 15.8 g | COC=1CC=2CCC(CC2CC1)N(CCC)CCC | C17H29NO
